US06197798B1
To a solution of N-(2-acetylamino-indan-5-yl)-2-bromo-benzamide (the title C compound; 0.150 g, 0.40 mmol) and 4-fluorobenzeneboronic acid (0.0.84 g, 0.60 mmol) in DME (7 mL) is added PdCl2(dppf) (0.010 g, 0.012 mmol) followed by K3PO4 (0.25 g, 1.20 mmol). The reaction mixture is degassed and heated at reflux under N2 atmosphere for 16 h. After cooling to room temperature, the reaction mixture is diluted with water and extracted with ethyl acetate. The organic layer is dried (MgSO4) and concentrated under reduced pressure to give a tan solid. Trituration with ethyl acetate gives 4′-fluorobiphenyl-2-carboxylic acid (2-acetylamino-indan-5-yl)-amide as a grey solid, mp 218-220° C. MS (ES+), m/z 389 (M+1).

reactant | N-(2-acetylamino-indan-5-yl)-2-bromo-benzamide | C(C)(=O)NC1CC2=CC=C(C=C2C1)NC(C1=C(C=CC=C1)Br)=O | C18H17BrN2O2
reactant | 4-fluorobenzeneboronic acid | 0.60 mmol | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K3PO4 | 1.20 mmol, 0.25 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DME | 7 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | 0.012 mmol, 0.010 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4′-fluorobiphenyl-2-carboxylic acid (2-acetylamino-indan-5-yl)-amide | C(C)(=O)NC1CC2=CC=C(C=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)F | C24H21FN2O2
